US04139530
The 2,9-dibromo-benzo-[c]-cinnoline is prepared from the 2,2'-diamino-5,5'-dibromo-biphenyl described by Le Fevre (J. Chem. Soc. 1929, 736) according to the oxidation method with sodium perborate of J. F. Corbett, P. F. Holt (J. Chem. Soc. 1961, 3698).

reactant | 2,2'-diamino-5,5'-dibromo-biphenyl | NC1=C(C=C(C=C1)Br)C1=C(C=CC(=C1)Br)N | C12H10Br2N2
reactant | sodium perborate | B(=O)O[O-].[Na+]
product | 2,9-dibromo-benzo-[c]-cinnoline | BrC1=CC2=C(N=NC=3C=CC(=CC23)Br)C=C1 | C12H6Br2N2
